US07728031B2
(3aR,6aR)-1-(4-Bromophenyl)-5-methyloctahydropyrrolo[3,4-b]pyrrole
To a solution of (3aR,6aR)tert-butyl 1-(4-bromophenyl)hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate (1.86 g, 5.1 mmol) in CH2Cl2 (50 mL) at 23° C. was added TFA (8 mL) and the mixture was allowed to stir for 2 hrs. The solvents were removed under vacuum and the residue was taken up in MeOH (50 mL) followed by the addition of formaldehyde (37%, 3 mL, 40 mmol) and NaBH3CN (950 mg, 15.1 mmol). The mixture was stirred at 23° C. for 10 hours, concentrated under reduced pressure and the residue was dissolved in CH2Cl2 (100 mL), washed sequentially with water (2×50 mL), brine (1×30 mL), and dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product mixture was purified via chromatography (SiO2, 0-10% MeOH in CH2Cl2) to provide the title compound. 1H NMR (300 MHz, CDCl3): δ=7.28 ppm (m, 2H), 6.44 (m, 2H), 4.05 (m, 1H), 3.45 (m, 1H), 3.19 (m, 1H), 2.94 (m, 1H), 2.67 (m, 1H), 2.52 (m, 3H), 2.30 (s, 3H), 2.16 (m, 1H), 1.95 (m, 1H). MS (ESI, M+1): 280.8.

reactant | (3aR,6aR)tert-butyl 1-(4-bromophenyl)hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate | 5.1 mmol, 1.86 g | BrC1=CC=C(C=C1)N1[C@@H]2[C@H](CC1)CN(C2)C(=O)OC(C)(C)C | C17H23BrN2O2
reactant | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | formaldehyde | 40 mmol, 3 mL | C=O | CH2O
reactant | NaBH3CN | 15.1 mmol, 950 mg | [BH3-]C#N.[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (3aR,6aR)-1-(4-Bromophenyl)-5-methyloctahydropyrrolo[3,4-b]pyrrole | BrC1=CC=C(C=C1)N1[C@@H]2[C@H](CC1)CN(C2)C | C13H17BrN2
